US03959169
About 125 parts of 1,4-dichlorobutene-2 and 60 parts of trimethylamine are mixed with 700 parts toluene. This mixture is allowed to react (reflux) at 110°C. for 18 hours. This mixture yields about 82% 4-chloro-2-butenyltrimethylammonium chloride.

reactant | 1,4-dichlorobutene-2 | C(/C=C/CCl)Cl | C4H6Cl2
reactant | trimethylamine | CN(C)C | C3H9N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-2-butenyltrimethylammonium chloride | about 82% | [Cl-].ClCC=CC[N+](C)(C)C | InChI=1S/C7H15ClN.ClH/c1-9(2,3)7-5-4-6-8;/h4-5H,6-7H2,1-3H3;1H/q+1;/p-1
